US07232834B2
50 cm3 of a solution of 2M trimethylsilyldiazomethane/hexane are added, at a temperature in the region of 15° C., under an argon atmosphere, to 5 g (17.64 mmol) of (3R,4R)-1-tert-butyloxycarbonyl-4-(2-carboxyethyl)-3-vinylpiperidine in solution in 50 cm3 of methanol. After stirring for 3 hours at a temperature in the region of 22° C., the reaction medium is concentrated to dryness under reduced pressure (2.7 kPa) to give 5.3 g of (3R,4R)-1-tert-butyloxycarbonyl-4-(2-methoxycarbonylethyl)-3-vinylpiperidine in the form of an orange oil.

reactant | trimethylsilyldiazomethane hexane | 2M | C[Si](C)(C)C=[N+]=[N-].CCCCCC
reactant | (3R,4R)-1-tert-butyloxycarbonyl-4-(2-carboxyethyl)-3-vinylpiperidine | 17.64 mmol, 5 g | C(C)(C)(C)OC(=O)N1C[C@@H]([C@@H](CC1)CCC(=O)O)C=C | C15H25NO4
solvent | methanol | 50 cm3 | CO | CH4O
product | (3R,4R)-1-tert-butyloxycarbonyl-4-(2-methoxycarbonylethyl)-3-vinylpiperidine | 5.3 g | C(C)(C)(C)OC(=O)N1C[C@@H]([C@@H](CC1)CCC(=O)OC)C=C | C16H27NO4
